US08541522B2
1-(2-(Benzyloxy)-3-tert-butylphenyl)-1-(2′-methoxybiphenyl-3-yl)ethanol (27):
A solution of 3′-bromo-2-methoxybiphenyl (1.31 g, 5 mmol) in anhydrous tetrahydrofuran (20 mL) was stirred at −78° C. and 2.5M n-butyllithium in hexanes (2 mL, 5 mmol) was added at such a rate that the temperature did not exceed −70° C. Stirring was continued at −78° C. for 1 hr. A solution of 1-(2-(benzyloxy)-3-tert-butylphenyl)ethanone (1.41 g, 5 mmol) in tetrahydrofuran (8 mL) was added at such a rate that the temperature did not exceed −65° C. Stirring was continued at −78° C. for 20 min and at room temperature for 2 hr. The reaction mixture was poured onto saturated ammonium chloride (80 mL) and extracted with ethyl acetate (150 mL). The organic extract was washed with water (2×80 mL). The organic layer was dried over sodium sulfate, filtered and the solvent was removed on a rotary evaporator. The crude product 27 was used as such in the next step.

reactant | 3′-bromo-2-methoxybiphenyl | 5 mmol, 1.31 g | BrC=1C=C(C=CC1)C1=C(C=CC=C1)OC | C13H11BrO
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 1-(2-(benzyloxy)-3-tert-butylphenyl)ethanone | 5 mmol, 1.41 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1C(C)(C)C)C(C)=O | C19H22O2
reactant | ammonium chloride | 80 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-(2-(Benzyloxy)-3-tert-butylphenyl)-1-(2′-methoxybiphenyl-3-yl)ethanol | C(C1=CC=CC=C1)OC1=C(C=CC=C1C(C)(C)C)C(C)(O)C=1C=C(C=CC1)C1=C(C=CC=C1)OC | C32H34O3
